US04533670
2-(Chloroacetyl)-7-methylfluorene
Following the same procedure, 2-(chloroacetyl)-7-bromofluorene was prepared from 2-bromofluorene.

reactant | 2-(chloroacetyl)-7-bromofluorene | ClCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)Br | C15H10BrClO
reactant | 2-bromofluorene | BrC1=CC=2CC3=CC=CC=C3C2C=C1 | C13H9Br
product | 2-(Chloroacetyl)-7-methylfluorene | ClCC(=O)C1=CC=2CC3=CC(=CC=C3C2C=C1)C | C16H13ClO
